US07105567B2
By the reaction and treatment in the same manner as in Example 2 using benzyl(4-ethylphenyl)amine (1.77 g) and 2,6-diisopropylphenyl isocyanate (1.96 g) as starting materials, N-benzyl-N′-(2,6-diisopropylphenyl)-N-(4-ethylphenyl)urea (1.49 g) was obtained.

reactant | benzyl(4-ethylphenyl)amine | 1.77 g | C(C1=CC=CC=C1)NC1=CC=C(C=C1)CC | C15H17N
reactant | 2,6-diisopropylphenyl isocyanate | 1.96 g | C(C)(C)C1=C(C(=CC=C1)C(C)C)N=C=O | C13H17NO
product | N-benzyl-N′-(2,6-diisopropylphenyl)-N-(4-ethylphenyl)urea | 1.49 g | C(C1=CC=CC=C1)N(C(=O)NC1=C(C=CC=C1C(C)C)C(C)C)C1=CC=C(C=C1)CC | C28H34N2O
